US06265411B1
A mixture of 4-hydroxy-3-methoxybenzoic acid (8.4 g, 50 mmol), 3-(pyrrolidin-1-yl)propyl chloride (14.75 g, 0.1 mol), (prepared according to J. Am. Chem. Soc. 1955, 77. 2272), potassium carbonate (13.8 g, 0.1 mol) and potassium iodide (1.66 g, 10 mmol) in DMF (150 ml) was stirred and heated at 100° C. for 3 hours. The mixture was allowed to cool and the insolubles were removed by filtration and the volatiles were removed from the filtrate by evaporation. The residue was dissolved in ethanol (75ml), 2M aqueous sodium hydroxide (75 ml) was added and the mixture was heated at 90° C. for 2 hours. The mixture was concentrated by evaporation, acidified with concentrated hydrochloric acid, washed with ether and then subjected to purification on a Diaion (trade mark of Mitsubishi) HP20SS resin column, eluting with water and then with a gradient of methanol (0 to 25%) in dilute hydrochloric acid (pH2.2). The methanol was removed by evaporation and the aqueous residue was freeze dried to give 3-methoxy-4-(3-(pyrrolidin-1-yl)propoxy)benzoic acid hydrochloride (12.2 g, 77%).

reactant | 4-hydroxy-3-methoxybenzoic acid | 50 mmol, 8.4 g | OC1=C(C=C(C(=O)O)C=C1)OC | C8H8O4
reactant | 3-(pyrrolidin-1-yl)propyl chloride | 0.1 mol, 14.75 g | N1(CCCC1)CCCCl | C7H14ClN
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 10 mmol, 1.66 g | [I-].[K+]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 3-methoxy-4-(3-(pyrrolidin-1-yl)propoxy)benzoic acid hydrochloride | 12.2 g, 77% | Cl.COC=1C=C(C(=O)O)C=CC1OCCCN1CCCC1 | InChI=1S/C15H21NO4.ClH/c1-19-14-11-12(15(17)18)5-6-13(14)20-10-4-9-16-7-2-3-8-16;/h5-6,11H,2-4,7-10H2,1H3,(H,17,18);1H
